US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-[(4-methylphenyl)acetyl]thiophene-3-sulfonamide was prepared in the same manner as described in Example 93B by reacting 4-methylbenzylmagnesium chloride with N-(4-bromo-3-methyl-5-isoxazolyl)-2-[N-methoxy(methylaminocarbonyl)]thiophene-3-sulfonamide in THF (see Example 93A) at -78° C. to room temperature, resulting in 78% yield. m.p. 146°-150° C.8

reactant | 4-methylbenzylmagnesium chloride | CC1=CC=C(C[Mg]Cl)C=C1
reactant | N-(4-bromo-3-methyl-5-isoxazolyl)-2-[N-methoxy(methylaminocarbonyl)]thiophene-3-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C1=C(SC=C1)C(=O)N(OC)C)C | C11H12BrN3O5S2
solvent | THF | C1CCOC1 | C4H8O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-[(4-methylphenyl)acetyl]thiophene-3-sulfonamide | 78% yield | BrC=1C(=NOC1NS(=O)(=O)C1=C(SC=C1)C(CC1=CC=C(C=C1)C)=O)C | C17H15BrN2O4S2
